US06949648B2
3-(4-Methoxyphenyl)-1-(2-pyridinyl)-1H-pyrazol-5-ylamine
Following the procedure described in Reference Example 2-4, the title compound was prepared from 2-hydrazinopyridine and 3-(4-methoxyphenyl)-3-oxypropanenitrile prepared from tert-butyl cyanoacetate and 4-methoxybenzoyl chloride according to the method described in Synthesis, p. 337 (1997) (3.48 g, 95% yield).

reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
reactant | tert-butyl cyanoacetate | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 3-(4-Methoxyphenyl)-1-(2-pyridinyl)-1H-pyrazol-5-ylamine | 95% yield | COC1=CC=C(C=C1)C1=NN(C(=C1)N)C1=NC=CC=C1 | C15H14N4O
